US04100152
(c) Synthesis of Oct-His-Pro-NHCH2CH2CH2CH3
Using 1.63 g. (0.004 M) of BOC-His-Pro-NHCH2CH2CH2CH3, the title compound is synthesized in the same manner as described in Example 3 (c) for the synthesis of the methyl-compound. Yield 1.16 g.; optical rotation [α]D21 -65.0° (c=0.60, in water); thin-layer chromatography Rf1 =0.62.

reactant | BOC-His-Pro-NHCH2CH2CH2CH3 | 0.004 M | N([C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)NCCCC)CCC1)C(=O)OC(C)(C)C | C20H33N5O4
solvent | water | O | H2O
product | His-Pro-NHCH2CH2CH2CH3 | N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)NCCCC)CCC1 | C15H25N5O2
